US08486979B2
2-fluoro-5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)benzonitrile
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 3-cyano-4-fluorobenzoic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ ppm 7.62-7.71 (m, 2 H), 8.54-8.63 (m, 2 H), 8.69 (dd, J=5.9, 2.2 Hz, 1 H), 8.75 (dd, J=4.9, 1.5 Hz, 1 H), 9.30 (dd, J=2.0, 1.0 Hz, 1 H); MS (DCI/NH3) m/z 267 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 3-cyano-4-fluorobenzoic acid | C(#N)C=1C=C(C(=O)O)C=CC1F | C8H4FNO2
reactant | NH3 | N | H3N
product | 2-fluoro-5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)benzonitrile | FC1=C(C#N)C=C(C=C1)C1=NC(=NO1)C=1C=NC=CC1 | C14H7FN4O
